US07141564B2
(a) Benzo[1,2,5]thiadiazol-5-yl-methanol
Benzo[1,2,5]thiadiazole-5-carboxylic acid (2.00 g, 11.11 mmol) was dissolved in tetrahydrofuran (50 mL) and cooled to 0° C. To this was added triethylamine (1.80 mL, 12.87 mmol) followed by isobutylchloroformate (1.62 mL, 12.40 mmol) in a dropwise manner. The resulting slurry was stirred for a further 30 minutes at 0° C. and then filtered into a mixture of sodium borohydride (0.83 g, 21.84 mol) in ice water (20 mL). The resulting mixture was stirred at 0° C. for 30 minutes, evaporated to one quarter of its volume and then extracted with dichloromethane (3×50 mL). The organic phases were combined and then dried over sodium sulfate. This was followed by concentration under reduced pressure to provide the desired product as a white solid which was used without further purification (1.50 g, 81%).

reactant | Benzo[1,2,5]thiadiazole-5-carboxylic acid | 11.11 mmol, 2.00 g | N1=C2C(=NS1)C=C(C=C2)C(=O)O | C7H4N2O2S
reactant | triethylamine | 12.87 mmol, 1.80 mL | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 12.40 mmol, 1.62 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | sodium borohydride | 21.84 mol, 0.83 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | Benzo[1,2,5]thiadiazol-5-yl-methanol | N1=C2C(=NS1)C=C(C=C2)CO | C7H6N2OS
